US09227976B2
4-(4-chloro-3,5-diphenyl-pyrazolo[3,4-c]pyridazin-1-yl)butan-2-one (Compound IIm)
Compound IIm was synthesized from 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine and 4-hydroxybutan-2-one following the general procedure for the Mitsunobu reaction as described above.

reactant | 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C2=CC=CC=C2 | C17H11ClN4
reactant | 4-hydroxybutan-2-one | OCCC(C)=O | C4H8O2
product | 4-(4-chloro-3,5-diphenyl-pyrazolo[3,4-c]pyridazin-1-yl)butan-2-one | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CCC(C)=O | C21H17ClN4O
